US04615966
To a solution of 31.07 g (0.126 mol) of N-formyl-5-chlorosulfonylindoline in 400 ml of ice-cold methylene chloride was added 37 ml (0.252 mol) of triethylamine and 30 ml (0.252 mol) of 40% aqueous methylamine solution, portionwise over twenty minutes. The mixture was allowed to warm to room temperature and then heated to reflux in an oil bath for one hour while stirred mechanically. Thin layer chromatography with chloroform showed the reaction was complete. The aqueous layer was removed. The methylene chloride layer was washed with water and dried over sodium sulfate. The solution was concentrated under reduced pressure and the residue allowed to air dry to give 23.74 g (0.0988 mol) (75% by weight yield) of 5-methylsulfamoyl-N-formylindoline.

reactant | N-formyl-5-chlorosulfonylindoline | 0.126 mol, 31.07 g | C(=O)N1CCC2=CC(=CC=C12)S(=O)(=O)Cl | C9H8ClNO3S
reactant | triethylamine | 0.252 mol, 37 ml | C(C)N(CC)CC | C6H15N
reactant | methylamine | 0.252 mol, 30 ml | CN | CH5N
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 5-methylsulfamoyl-N-formylindoline | 0.0988 mol, 23.74 g | CNS(=O)(=O)C=1C=C2CCN(C2=CC1)C=O | C10H12N2O3S
